*****************************************************************
* INFINEON TECHNOLOGIES AG     			IHW_R3_L2.LIB	*
*								*
*  (V3.5a)     	10/10  						*
*                                                               *
* Models provided by INFINEON are not warranted by INFINEON as  *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    * 
* typical device.                                               * 
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. INFINEON therefore does not  *
* assume any liability arising from their use.                  *
* INFINEON reserves the right to change models without prior    * 
* notice.                                                       *
*                                                               *
* This library contains Level 2 models for the following	* 
* INFINEON Technologies 1200 V IGBT3/ Power Diodes		*
* devices/chip-models including lead inductances related	*
* 								*
* 								*
* 								*
* 1200V type			BV/V	Ice/A			*	
*								*
* IHW15N120R3			1200	15 (induction heating)	*
* IHW20N120R3			1200	20 (induction heating)	*
* IHW20N135R3			1350 	20	(induction heating)	*
* 								*
* 								*
* the model is based on the publication:			*
* 								*
* R.Kraus, P.Türkes, J.Sigg					*
* Physics-based Models Of Power Semiconductor Devices 		*
* For The Circuit Simulator Spice				*
* 								*
* Power Electronics Specialists Conference, 1998.		* 
* PESC 98 Record. 29th Annual IEEE				*
*								*
* SUPPORTemail:	simulate@infineon.com				*
***************************************************************** Ads
.SUBCKT IHW20N120R3 ano gate kat PARAMS: TJ = 27
.PARAM Atotal = 0.173 A = 0.113 Rg = 1 PCS = 0.115 WX2 = 105e-4
LANO ano anol 5n
RLAN ano anol 10
LKAT katl kat 7n 
RLK katl kat 10
XIGHBT anol gate katl L7XXXJ_L2_120 PARAMS: TJ= {TJ} Atotal = {(1-PCS)*Atotal} A = {(1-PCS)*A} 
+ PCS = {PCS} WX2 = {WX2} Rg = {Rg} 
.ENDS
.SUBCKT IHW20N135R3 ano gate kat PARAMS: TJ = 27
.PARAM Atotal = 0.173 A = 0.113 Rg = 1 PCS = 0.115 WX2 = 125e-4
LANO ano anol 5n
RLAN ano anol 10
LKAT katl kat 7n 
RLK katl kat 10
XIGHBT anol gate katl L7XXXJ_L2_120 PARAMS: TJ= {TJ} Atotal = {(1-PCS)*Atotal} A = {(1-PCS)*A} 
+ PCS = {PCS} WX2 = {WX2} Rg = {Rg} 
.ENDS
.SUBCKT IHW15N120R3 ano gate kat PARAMS: TJ = 27 
.PARAM Atotal = 0.143 A = 0.086 Rg = 1 PCS = 0.115 WX2 = 105e-4
LANO ano anol 5n
RLAN ano anol 10
LKAT katl kat 7n 
RLK katl kat 10
XIGHBT anol gate katl L7XXXJ_L2_120 PARAMS: TJ= {TJ} Atotal = {(1-PCS)*Atotal} A = {(1-PCS)*A} 
+ PCS = {PCS} WX2 = {WX2} Rg = {Rg} 
.ENDS
.SUBCKT L7XXXJ_L2_120 ano gate kat PARAMS: TJ = 27 Atotal = 1.5 A = 1.2 PCS = 0.01 WX2 = 105e-4 Rg = 1 
.PARAM 
+q = 1.6E-19 eps0 = 8.85E-14 epsi = 11.8 eox= 3.8 
+t0= 273 k=1.381e-23 
+un = 1350 up = 450 u_surf= 600 ni0=1.45e10
+vlimit = 10e6 vsat = 8e5 pi = 3.1416
.PARAM TX1 = 110e-7 NX1 = 7.121e17 f_buf = 0.05
+NX2 =3.9E13 TX2 = 6.0u ETX2 = 2 EMU = -1.5
+BV_FW=1250 BV_RW=28 vsw = 1
.PARAM NX3=1.5e15 LX1= 9e-4 
.PARAM WX1 = {WX2 - 35.513e-4}
.PARAM LX2= 2.5e-4 RX1 = 0.2625m 
.PARAM NX4 = {A*7.561e5}
.PARAM AX2 = {NX4*662.6n}
.PARAM WX3= {NX4*2.292m}
.PARAM CX1_d = {NX4*1.892e-14/(1-PCS)}
.PARAM CX11 = {NX4*5.176e-14}
.PARAM CX12 = {NX4*2.018e-14}
.PARAM CX1_g = {(Atotal - A)*2.242n}
.PARAM CX1_fp = {(CX11 + CX12 + CX1_g)/(1-PCS)}
.PARAM CX2 = {NX4*1.752e-14/(1-PCS)} ; wegen Randabschattung
.PARAM A_j = {NX4*662.6n}
.PARAM Cjs = {Atotal * 1.862n}
.PARAM Cje = {A_j *1.862n} 
.PARAM AX1_d = {CX1_d*32.71meg}
*.PARAM AX1_fp = {(Atotal - AX2 ) /(1-PCS) }
.PARAM AX1_fp = {NX4*2.353u /(1-PCS) }
.PARAM D = 15.885
.PARAM Isbs2= {A*62.72p} 
.PARAM Isbs2_g= {A*4e-14} 
.PARAM Isbs1= {A*5.04u} 
.PARAM Isbs1_g= {A*2.136e-19}
.PARAM Q0 = {A*WX1*4.646u}
XCHANN dn g s channel_120_R3 PARAMS: TJ = {TJ} WX3 = {WX3} LX2 = {LX2} TX1 = {TX1} NX1 = {NX1} 
GDE1 ano e1 VALUE = 
+ {LIMIT(TANH(1e3*I(VDE1))*(((Isx1(TJ)**((t0 + TJ)/(t0 + 27)))/Isx1(27))**((t0 + 27)/(t0 + TJ)) 
+ * ABS(I(VDE1))**((t0 + 27)/(t0 + TJ)) - ABS(I(VDE1))),-1e9,1e9)}
GDE2 ano e1 VALUE = 
+ {LIMIT(TANH(1e3*I(VDE2))*(((Isx2(TJ)**((t0 + TJ)/(t0 + 27)))/Isx2(27))**((t0 + 27)/(t0 + TJ)) 
+ * ABS(I(VDE2))**((t0 + 27)/(t0 + TJ)) - ABS(I(VDE2))),-1e9,1e9)}
VDE1 ano anx1 0
VDE2 ano anx2 0
DE1 anx1 e1 D11
DE2 anx2 e1 D12
CANO ano e1 {Cjs}
GJCAP d kat VALUE = {1e6*AX2*I(VIJCT)}
VISHORT e1 out 0
.MODEL D11 D (IS = {Isbs1}, N = 2  RS = 1u )
.MODEL D12 D (IS = {Isbs2}, N = 1.0  RS = 1u)
RG1 gate g {(Rg + .25)/(((TJ + t0)/300)**EMU)}
RS s kat {RX1/A}
XMOS ano g s out mosdio_L2_120_R3 PARAMS: TJ= {TJ} A = {PCS*A/(1-PCS)} 
+ PCS = {PCS} Rg = .1 NX1 = {NX1} TX2 = {TX2} TX1 = {TX1} WX2 = {WX2}
EVGCX1 vgCX1 0 VALUE = {LIMIT(V(ox_d,kat)-{vsw},-1e9,1e9) }
RVGCOX vgCX1 0 1
GICX1_fp g ox_fp VALUE = {LIMIT(((CX1_fp)/100 + 99*CX1_fp*(1+ tanh(10*V(vgCX1,0)) )/200)* 1e6*I(VDUGD_fp),-1e9,1e9)}
GICX1_d g ox_d VALUE = {LIMIT(((CX1_d)/100 + 99*CX1_d*(1+ tanh(10*V(vgCX1,0)) )/200)* 1e6*I(VDUGD_d),-1e9,1e9)}
GICX2 g s VALUE = {LIMIT((CX2 + 99*(CX1_fp + CX1_d)*(1 + tanh(-10*V(vgCX1,0)) )/200)* 1e6*I(VDUGS),-1e9,1e9)}
VIA e1 e 0
EDEP_fp d ox_fp VALUE = {0.99*MAX(Vdep_fp(V(d,g),QTOT(V(xj2,0))),0)}
EDEP_d d ox_d VALUE = {0.99*MAX(Vdep_d(V(d,g),QTOT1(V(xj2,0),V(ncurr))),0)}
EGIA e d VALUE = {LIMIT((I(VIA) + I(VISHORT))*Rb(V(b,0),TJ),-1e9,1e9)}
VINC d dn 0
GIC ds kat VALUE = {IPC(I(VINC),V(b,0),V(xj1,0),I(VDXJ),TJ)}
VIPC d ds 0
CQB b 0 1u,IC = 0
RHELP b 0 1meg
GRQB b 0 VALUE {LIMIT(1u*V(b,0)*(1/(TAU_X(TJ) )) + INE(I(VINC),V(b,0),V(xj1,0),I(VDXJ),TJ) + f_buf*I(VIA) - (I(VISHORT) + I(VINC)),-1e9,1e9)}
*GRQB2 b 0 VALUE {LIMIT(INE(I(VINC),V(b,0),V(xj1,0),I(VDXJ),TJ) + f_buf*I(VIA),-1e9,1e9)}
*GRQB3 0 b VALUE {LIMIT(I(VISHORT) + I(VINC) ,-1e9,1e9)}
EXJ xj1 0 VALUE {LIMIT(V(xxj1),-1e9,1e9)}
CXJ xj 0 1u
RXJ xjr xj .1m
VDXJ xj1 xjr 0
EXJ2 xj2 0 VALUE {LIMIT(V(xxj11),-1e9,1e9)}
RXJ2 xj2 0 1meg
GXXJ1 0 xxj1 VALUE {LIMIT(MAX(xj(MAX(V(vj2),1m),MAX(V(xxj1),0.1m),V(ncurr)),0.1m) - V(xxj1a),-1e9,1e9)}
RXXJ1 xxj1 0 1meg
GXXJ1a 0 xxj1a VALUE {LIMIT(MAX(xj0(MAX(V(vj2),1m),MAX(V(xxj1a),0.1m),V(ncurr)),0.1m) - V(xxj1),-1e9,1e9)}
RXXJ1a xxj1a 0 1meg
GVJ1 0 vj1 VALUE {LIMIT( IF(V(d,kat) > 1m, V(d,kat) - A_j*QTOT1(V(xxj1),V(ncurr))/Cje,0) - V(vj2),-1e9,1e9)}
RVJ1 vj1 0 1meg
GVJ2 0 vj2 VALUE {LIMIT(VS(V(xxj1),V(ncurr)) - V(vj1),-1e9,1e9)}
RVJ2 vj2 0 1meg
GXXJ11 0 xxj11 VALUE {LIMIT(MAX(xj(MAX(V(vj21),1m),MAX(V(xxj11),0.1m),V(ncurr)),0.1m) - V(xxj11a),-1e9,1e9)}
RXXJ11 xxj11 0 1meg
GXXJ11a 0 xxj11a VALUE {LIMIT(MAX(xj0(MAX(V(vj21),1m),MAX(V(xxj11a),0.1m),V(ncurr)),0.1m) - V(xxj11),-1e9,1e9)}
RXXJ11a xxj11a 0 1meg
GVJ11 0 vj11 VALUE {LIMIT( IF(V(d,g) > 1m,V(d,g) - (AX1_d + AX1_fp)*QTOT1(V(xxj11),V(ncurr))/(CX1_d + CX1_fp),0) - V(vj21),-1e9,1e9)}
RVJ11 vj11 0 1meg
GVJ21 0 vj21 VALUE {LIMIT(VS(V(xxj11),V(ncurr)) - V(vj11),-1e9,1e9)}
RVJ21 vj21 0 1meg
EDUGS du1 0 VALUE {LIMIT(V(g,s),-1e9,1e9)}
VDUGS du1 du1cr 0
RDUGS du1cr du1c .1m 
CDUGS du1c 0 1u
EDUGD_d du2 0 VALUE {LIMIT(V(g,ox_d),-1e9,1e9)}
VDUGD_d du2 du2cr 0
RDUGD_d du2cr du2c .1m 
CDUGD_d du2c 0 1u
EDUGD_fp du3 0 VALUE {LIMIT(V(g,ox_fp),-1e9,1e9)}
VDUGD_fp du3 du3cr 0
RDUGD_fp du3cr du3c .1m 
CDUGD_fp du3c 0 1u
EJUNCT jct 0 VALUE = {QTOT1(V(xj1,0),V(ncurr))}
VIJCT jct cpr 0
RIJCT cpr cp .1m
CJCT 0 cp 1u
GNCURR 0 ncurr VALUE = {LIMIT(MAX(I(VIPC),0)/A/vlimit - V(ncurr),-1e9,1e9)}
RNCURR ncurr 0 1meg
.FUNC N1(X) {LIMIT((q*NX2 )*X,-1e9,1e9)}
.FUNC N11(X,Y) {LIMIT((q*NX2 + MAX(Y,0))*X ,-1e9,1e9)}
.FUNC N2(X) {LIMIT(q*NX3*LX1*(exp((X-WX2)/LX1 ) - exp(-WX2/LX1) ),-1e9,1e9)}
.FUNC QTOT(X) {LIMIT((N1(X) + N2(X) ),-1e9,1e9)}
.FUNC QTOT1(X,Y) {LIMIT((N11(X,Y) + N2(X) ),-1e9,1e9)}
.FUNC TAU_X(T) {LIMIT(TX2*((T+t0)/300)**{ETX2},-1e9,1e9)}
.FUNC EG(T) {LIMIT(1.16 - 7.02e-4*(T+t0)**2/(T+t0 + 1108),-1e9,1e9)}
.FUNC ni(T) {((T+t0)/300)**1.5*exp(1/(2*8.61e-5)*(-300*EG(T)+(t0+T)*EG(27))/(T+t0)/300)}
.FUNC DA(T) {LIMIT(2*k*un*up/q/(un + up)*(T + t0)*(((T + t0)/300)**EMU),-1e9,1e9)}
.FUNC LA(T) {LIMIT(sqrt(DA(T) * TAU_X(T)),-1e9,1e9) }
.FUNC Isx2(T) {LIMIT((Isbs2_g*k*ni0*ni(T)*ni0*ni(T))*(t0+T)*(up + un)*(((T + t0)/300)**EMU),-1e9,1e9)} 
.FUNC Isx1(T) {LIMIT((Isbs1_g*ni0*ni(T)) * sqrt(DA(T)/(TAU_X(T))),-1e9,1e9)} 
.FUNC Vdep_fp(V,X) {V - AX1_fp/CX1_fp*X}
.FUNC Vdep_d(V,X) {V - AX1_d/CX1_d*X}
.FUNC V0(X,Y) {LIMIT(0.5*X*X*((q*NX2/eps0/epsi) + MAX(Y,0)/eps0/epsi ),-1e9,1e9)} 
.FUNC V0abl(X,Y) {LIMIT(X*((q*NX2/eps0/epsi) + MAX(Y,0)/eps0/epsi ),-1e9,1e9)} 
.FUNC V0abl2(X,Y) {LIMIT(((q*NX2/eps0/epsi) + MAX(Y,0)/eps0/epsi ),-1e9,1e9)} 
.FUNC V1(X) {LIMIT(q*LX1**2*NX3*( exp( -WX2/LX1) - (LX1-X)/LX1*exp(-(WX2-X)/LX1))/eps0/epsi,-1e9,1e9)}
.FUNC V1abl(X) {LIMIT(q*NX3*X/eps0/epsi*exp(-(WX2-X)/LX1),-1e9,1e9)}
.FUNC V1abl2(X) {LIMIT(q*NX3/LX1*(X+LX1)/eps0/epsi*exp(-(WX2-X)/LX1),-1e9,1e9)}
.FUNC VS(X,Y) {LIMIT(V0(X,Y) + V1(X),-1e9,1e9)}
.FUNC VSabl(X,Y) {LIMIT(V0abl(X,Y) + V1abl(X),-1e9,1e9)}
.FUNC VSabl2(X,Y) {LIMIT(V0abl2(X,Y) + V1abl2(X),-1e9,1e9)}
.FUNC xj(V,X,Y) {LIMIT((V - VS(X,Y) + X*VSabl(X,Y))/VSabl(X,Y) ,-1e9,1e9)}
.FUNC xj0(V,X,Y) {LIMIT(SQRT(VSabl(X,Y)/VSabl2(X,Y)*VSabl(X,Y)/VSabl2(X,Y) + 2*(V - VS(X,Y) )/VSabl2(X,Y)) 
+ + X - VSabl(X,Y)/VSabl2(X,Y) ,-1e9,1e9)}
**

.FUNC Rb(X,T) {WX1*WX1/(un*(Q0)*(((T + t0)/300)**EMU) + (un + up)*MAX(X,0)*1e-6*(((T + t0)/300)**EMU))}
.FUNC FDX(V,X,T) {LIMIT(TANH(MAX(WX1-V,.1m)*1e6*X/(12*DA(T))),-1e9,1e9)}
.FUNC Td(V,X,T) {LIMIT((0.1/DA(T))*MAX(WX1-V,.1m)*MAX(WX1-V,.1m)*(1-FDX(V,X,T)),-1e9,1e9)}
.FUNC F1(V,T) {LIMIT(TAU_X(T)*(COSH(MAX(WX1-V,.1m)/LA(T))-1),-1e9,1e9)}
.FUNC F2(V,X,T) {LIMIT(0.5*(1+2*FDX(V,X,T)/(1+FDX(V,X,T)*FDX(V,X,T))),-1e9,1e9)}
.FUNC F3(V,X,T) {LIMIT(1+Td(V,X,T)/(TAU_X(T)),-1e9,1e9)}
.FUNC QS0(V,T) {LIMIT((q*ni0*ni(T))*A*LA(T)*TANH(0.5*MAX(WX1-V,.1m)/LA(T)),-1e9,1e9)}
.FUNC Qbd(Y,Z,V,X,T) {LIMIT(MAX(Z,0)*1e-6+Td(V,X,T)*Y,-1e9,1e9)}
.FUNC Qb0(Y,Z,V,X,T) {LIMIT(2*Qbd(Y,Z,V,X,T)/(F3(V,X,T)+SQRT(F3(V,X,T)*F3(V,X,T) 
+ + Td(V,X,T)*3*IQR(V,T)*Qbd(Y,Z,V,X,T)/QS0(V,T))),-1e9,1e9)}
.FUNC INE(Y,Z,V,X,T) {LIMIT(0.75*IQR(V,T)*Qb0(Y,Z,V,X,T)**2/QS0(V,T),-1e9,1e9)}
.FUNC IPC(Y,Z,V,X,T) {LIMIT((1/3)*Y+(4/3)*(Qb0(Y,Z,V,X,T)/F1(V,T)
+ +MAX(Qb0(Y,Z,V,X,T)/TAU_X(T)+INE(Y,Z,V,X,T)-Y,0)*F2(V,X,T)),-1e9,1e9)}
.FUNC IQR(V,T) {LIMIT(Isx2(T)/QS0(V,T),-1e9,1e9)}
.ENDS
.SUBCKT mosdio_L2_120_R3 ano gate kat e1 PARAMS: TJ = 27 A = 1.2 
+ PCS = 0.01 Rg = 1 NX1 = 6e17 TX2 = 1.0u TX1 = 110e-7 WX2 = 105e-4 
.PARAM 
+q = 1.6E-19 eps0 = 8.85E-14 epsi = 11.8 eox= 3.8 
+t0= 273 k=1.381e-23 
+un = 1350 up = 450 u_surf= 600 ni0=1.45e10
+vlimit = 10e6 pi = 3.1416 SF = -0.5 vsat = 8e5
.PARAM NX2 = 3.9E13 ETX2 = 2 EMU = -2
+Nphos = 5e16 wphos = 5e-4
+BV_FW=1250 BV_RW=28 vsw = -0.5
.PARAM NX3=1.5e15 LX1= 9e-4 
.PARAM WX1 = {WX2 - 3.5513m}
.PARAM LX2= 2.5e-4 RX1 = 0.2625m 
.PARAM REFF_GES = {0.44*3.0843/pi/4/LX1}
.PARAM NX4 = {A*7.561e5}
.PARAM AX2 = {NX4*662.6n}
.PARAM WX3= {NX4*2.292m}
.PARAM A_j = {NX4*662.6n}
.PARAM D = 15.885
.PARAM Ise0 = {AX2*66.05p}
.PARAM Ise_g = {AX2*5.617e-14}
.PARAM Isyr= {AX2*5.04u} 
.PARAM Isr_g= {AX2*2.136e-19}
.PARAM Q0 = {A*WX1*4.646u}
.PARAM CJ0 = {A_j*sqrt(eps0 * epsi * q * NX2/ 2 / 1m )}
XCHANN dn g s channel_120_R3 PARAMS: TJ = {TJ} WX3 = {WX3} LX2 = {LX2} TX1 = {TX1} NX1 = {NX1}
VDE3 kat kv3 0
DE3 kv3 dm D3
VIDS kat kv2 0
DS kv2 d D2 
GDEK kat d VALUE = 
+ {LIMIT(TANH(1e3*I(VIDS))*(((ISE(TJ)**((t0 + TJ)/(t0 + 27)))/ISE(27))**((t0 + 27)/(t0 + TJ)) 
+ * ABS(I(VIDS))**((t0 + 27)/(t0 + TJ)) - ABS(I(VIDS))),-1e9,1e9)}
GDE3 kat dm VALUE = 
+ {LIMIT(TANH(1e3*I(VDE3))*(((Isy1(TJ)**((t0 + TJ)/(t0 + 27)))/Isy1(27))**((t0 + 27)/(t0 + TJ)) 
+ * ABS(I(VDE3))**((t0 + 27)/(t0 + TJ)) - ABS(I(VDE3))),-1e9,1e9)}
VIDI dm d 0
GJCAP d kat VALUE = {LIMIT(1e6*I(VIJCT),-1e9,1e9)}
VSHRT e1vr e1 0
RSHRT e1v e1vr 1u
EGRSH ano e1v VALUE = {LIMIT(V(x1),-1e9,1e9)}
*EGRSH ano e1v VALUE = {LIMIT(if(I(VSHRT) > 0,I(VSHRT)*REFF_GES*(((TJ + t0)/300)**EMU),I(VSHRT)*RSHORT(TJ,V(b,0))),-1e9,1e9)}
*GX1 0 x1 VALUE = {LIMIT(if(I(VSHRT) > 0,I(VSHRT)*REFF_GES*(((TJ + t0)/300)**EMU),I(VSHRT)*RSHORT(TJ,V(b,0))) - V(x1),-1e9,1e9)}
GX1 0 x1 VALUE = {LIMIT(0.5*(I(VSHRT) + sqrt(I(VSHRT)*I(VSHRT) ))*REFF_GES*(((TJ + t0)/300)**EMU)
+ -0.5*(-I(VSHRT) + sqrt(I(VSHRT)*I(VSHRT) ))*RSHORT(TJ,V(b,0)),-1e9,1e9) - V(x1)}
RX1 x1 0 1meg
.MODEL D2 D (IS={Ise0},BV={BV_FW},N = 1.0 RS = 1u)
.MODEL D3 D (IS={Isyr}, N = 2  RS = 1u)
RG1 gate g {(Rg + .25)/(((TJ + t0)/300)**EMU)}
RS s kat {RX1/(A/PCS)}
VIA e1 e 0
EGIA e d VALUE = {LIMIT(I(VIA)*Rb(V(b,0),TJ) ,-1e9,1e9)}
VINC d dn 0
GIC kat ds VALUE = {IQ(V(xj1,0),I(VIDI),V(b,0),I(VDXJ),TJ)}
VIPC d ds 0
CQB b 0 1u
RHELP b 0 1meg
GRQB b 0 VALUE = {LIMIT(1u*V(b,0)/TAU_X(TJ) 
+ -IQ(V(xj1,0),I(VIDI),V(b,0),I(VDXJ),TJ) -I(VIDI),-1e9,1e9) }
*GRQB2 0 b VALUE = {LIMIT(IQ(V(xj1,0),I(VIDI),V(b,0),I(VDXJ),TJ) ,-1e9,1e9) }
*GRQB3 0 b VALUE = {LIMIT(I(VIDI) ,-1e9,1e9)}
EXJ xj1 0 VALUE {LIMIT(V(xxj1),-1e9,1e9)}
CXJ xj 0 1u
RXJ xjr xj .1m
VDXJ xj1 xjr 0
GXXJ1 0 xxj1 VALUE {LIMIT(MAX(xj(MAX(V(vj2),1m),MAX(V(xxj1),0.1m),V(ncurr)),0.1m) - V(xxj1a),-1e9,1e9)}
RXXJ1 xxj1 0 1meg
GXXJ1a 0 xxj1a VALUE {LIMIT(MAX(xj0(MAX(V(vj2),1m),MAX(V(xxj1a),0.1m),V(ncurr)),0.1m) - V(xxj1),-1e9,1e9)}
RXXJ1a xxj1a 0 1meg
GVJ1 0 vj1 VALUE {LIMIT( IF( V(d,kat) > 1m, V(d,kat) - A_j*QTOT(V(xxj1),V(ncurr))/CJ0,0) - V(vj2),-1e9,1e9)}
RVJ1 vj1 0 1meg
GVJ2 0 vj2 VALUE {LIMIT(VS(V(xxj1),V(ncurr)) - V(vj1),-1e9,1e9)}
RVJ2 vj2 0 1meg
EJUNCT jct 0 VALUE = {QTOT(V(xj1,0),V(ncurr))}
VIJCT jct cpr 0
CJCT cp 0 1u
RCJCT cpr cp .1m
GNCURR 0 ncurr VALUE = {LIMIT(MAX(I(VIPC),0)/A/vlimit - V(ncurr),-1e9,1e9)}
RNCURR ncurr 0 1meg
.FUNC a0(T) {LIMIT(SF*tanh(0.5*(WX2)/LA(T)),-1e9,1e9)}
.FUNC a1(T) {LIMIT((up/un)*(1 + a0(T))/(1 - a0(T)),-1e9,1e9)}
.FUNC a2(T) {LIMIT(0.1/((1 - 0.5*(1 - a1(T)*a1(T))*(1 - a0(T))) ),-1e9,1e9)}
.FUNC w(T,V) {LIMIT(MAX(WX1-V*(1 + a1(T)),0.1m),-1e9,1e9)}
.FUNC N1(X) {LIMIT((q*NX2 )*X,-1e9,1e9)}
.FUNC N11(X,Y) {LIMIT((q*NX2 + MAX(Y,0))*X ,-1e9,1e9)}
.FUNC N2(X) {LIMIT(q*NX3*LX1*(exp((X-WX2)/LX1 ) - exp(-WX2/LX1) ),-1e9,1e9)}
.FUNC QTOT(X,Y) {LIMIT(A_j*(N11(X,Y) + N2(X) ),-1e9,1e9)}
.FUNC RSHORT(T,X) {(0.44*LX1**2/(q*NX3*LX1 + 1e-6*MAX(X,0)/A) + wphos/Nphos/q)/A/un/(((T+t0)/300)**EMU)}
.FUNC TAU_X(T) {LIMIT(TX2*((T+t0)/300)**{ETX2},-1e9,1e9)}
.FUNC EG(T) {LIMIT(1.16 - 7.02e-4*(T+t0)**2/(T+t0 + 1108),-1e9,1e9)}
.FUNC ni(T) {((T+t0)/300)**1.5*exp(1/(2*8.61e-5)*(-300*EG(T)+(t0+T)*EG(27))/(T+t0)/300)}
.FUNC DA(T) {LIMIT(2*k*un*up/q/(un + up)*(T + t0)*(((T + t0)/300)**EMU),-1e9,1e9)}
.FUNC LA(T) {LIMIT(sqrt(DA(T) * TAU_X(T)) ,-1e9,1e9)}
.FUNC Isy1(T) {LIMIT((Isr_g*ni0*ni(T)) * sqrt(DA(T)/(TAU_X(T))),-1e9,1e9)} 
.FUNC ISE(T) {LIMIT((Ise_g*k*ni0*ni(T)*ni0*ni(T))*(t0+T)*un*(((T + t0)/300)**EMU),-1e9,1e9)}
.FUNC V0(X,Y) {LIMIT(0.5*X*X*((q*NX2/eps0/epsi) + MAX(Y,0)/eps0/epsi ),-1e9,1e9)} 
.FUNC V0abl(X,Y) {LIMIT(X*((q*NX2/eps0/epsi) + MAX(Y,0)/eps0/epsi ),-1e9,1e9)} 
.FUNC V0abl2(X,Y) {LIMIT(((q*NX2/eps0/epsi) + MAX(Y,0)/eps0/epsi ),-1e9,1e9)} 
.FUNC V1(X) {LIMIT(q*LX1**2*NX3*( exp( -WX2/LX1) - (LX1-X)/LX1*exp(-(WX2-X)/LX1))/eps0/epsi,-1e9,1e9)}
.FUNC V1abl(X) {LIMIT(q*NX3*X/eps0/epsi*exp(-(WX2-X)/LX1),-1e9,1e9)}
.FUNC V1abl2(X) {LIMIT(q*NX3/LX1*(X+LX1)/eps0/epsi*exp(-(WX2-X)/LX1),-1e9,1e9)}
.FUNC VS(X,Y) {LIMIT(V0(X,Y) + V1(X),-1e9,1e9)}
.FUNC VSabl(X,Y) {LIMIT(V0abl(X,Y) + V1abl(X),-1e9,1e9)}
.FUNC VSabl2(X,Y) {LIMIT(V0abl2(X,Y) + V1abl2(X),-1e9,1e9)}
.FUNC xj(V,X,Y) {LIMIT((V - VS(X,Y) + X*VSabl(X,Y))/VSabl(X,Y) ,-1e9,1e9)}
.FUNC xj0(V,X,Y) {LIMIT(SQRT(VSabl(X,Y)/VSabl2(X,Y)*VSabl(X,Y)/VSabl2(X,Y) + 2*(V - VS(X,Y) )/VSabl2(X,Y)) 
+ + X - VSabl(X,Y)/VSabl2(X,Y) ,-1e9,1e9)}
.FUNC Rb(X,T) {WX1*WX1/(un*(Q0)*(((T + t0)/300)**EMU) + (un + up)*MAX(X,0)*1e-6*(((T + t0)/300)**EMU))}
.FUNC Td(V,U,T) {LIMIT(a2(T)*w(T,V)*w(T,V)/DA(T)/(1 + w(T,V)*1e6*MAX(U,0)/12/DA(T)),-1e9,1e9)}
.FUNC IQ(V,Y,Z,U,T) {LIMIT((Tau_X(T)*MAX(Y,0) - MAX(Z,0)*1e-6)/Td(V,U,T),-1e9,1e9)}
.ENDS
.SUBCKT channel_120_R3 d g s PARAMS: TJ = 27 WX3 = 1 LX2 = 2e-4 TX1 = 110e-7 NX1 = 2e17
.PARAM 
+q = 1.602E-19 eps0 = 8.85E-14 epsi = 11.8 eox= 3.8 
+t0= 273 kb=1.381e-23 ni0=1.45e10
+un = 1350 up = 450 u_surf= 600 
+pi = 3.1416 vsat = 1.25e7 EMU = -2.5
.PARAM Ngate = 7.988e-11
.PARAM Nss = 2.156e12
.PARAM theta = 0.01
GIMOS dr s VALUE = {imos(V(g,s),V(d,s),TJ)}
RGIMOS dr d 1m
REGS g s 1meg
CGS g s 1p
CGD d g 1p
CDS d s 1p
EVTH vth 0 VALUE = {vto(TJ)}
.FUNC EG(T) {1.16 - 7.02e-4*(T+t0)**2/(T+t0 + 1108)}
.FUNC ni(T) {((T+t0)/300)**1.5*exp(MIN(1/(2*8.61e-5)*(-300*EG(T)+(t0+T)*EG(27))/(T+t0)/300,20))}
.FUNC phi_ms(T) {(kb/q)*(T + t0)*log(NX1/Ngate) - (q/eps0)/eox*TX1*Nss}
.FUNC psi2(T) {2.0*(kb/q)*(T + t0)*log((NX1/ni0)/ni(T))}
.FUNC vto(T) {phi_ms(T) + psi2(T) + (TX1/eps0)/eox*sqrt(abs(2.0*q*eps0*epsi*NX1*psi2(T)))}
.FUNC vgs_eff(VG,T) {MAX(VG - vto(T),0)}
.FUNC mu(VG,T) {(u_surf*((T + t0)/300.0)**EMU)/(1 + MAX(vgs_eff(VG,T),0)*theta)}
.FUNC Vb(VG,T) {vsat*LX2/mu(VG,T)}
.FUNC vd_sat(VG,T) {MAX(vgs_eff(VG,T) + Vb(VG,T) - sqrt(abs(vgs_eff(VG,T)**2.0 + Vb(VG,T)**2.0)),0)}
.FUNC vmos(VG,VD,T) {MIN(vd_sat(VG,T),VD )}
.FUNC kp(VG,VD,T) {mu(VG,T)*(WX3/LX2)*eox*eps0/TX1/(1.0 + MAX(vmos(VG,VD,T)/Vb(VG,T),0))}
.FUNC imos(VG,VD,T) {LIMIT(kp(VG,VD,T)*(vgs_eff(VG,T)*MIN(vmos(VG,VD,T),vgs_eff(VG,T))
+ -0.5*MIN(vmos(VG,VD,T),vgs_eff(VG,T))*MIN(vmos(VG,VD,T),vgs_eff(VG,T))),0,1e6) }
.ENDS






